US07851072B2
Step 1—Synthesis of 2-(3-bromophenyl)-5-methylpyridine
2-Bromo-5-methylpyridine (46.1 g, 267 mmol), 3-bromophenylboronic acid (35.8 g, 178 mmol), palladium(II) acetate (1.00 g, 4.4 mmol), triphenylphosphine (4.67 g, 17.8 mmol), and potassium carbonate (67.8 g, 491 mmol) were mixed with 370 mL of ethylene glycol dimethyl ether and 245 mL of water in a 1000 mL round bottom flask equipped with a temperature probe, reflux condenser, and a magnetic stir bar. The solution was heated at reflux under nitrogen for 16 hr. The cooled reaction mixture was then placed in a separatory funnel, and 100 mL of ethyl acetate was added. The aqueous layer was discarded. The organic layer was extracted twice with a saturated solution of sodium chloride, dried over magnesium sulfate, and evaporated to dryness. After the excess 2-bromo-5-methylpyridine was distilled off in vacuo at 110° C., the 2-(3-bromophenyl)-5-methylpyridine was distilled at 200° C. to give 30.1 g (68.1% yield) of a slightly orange liquid, which was used for the next step without further purification.

reactant | 2-Bromo-5-methylpyridine | 267 mmol, 46.1 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 3-bromophenylboronic acid | 178 mmol, 35.8 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | triphenylphosphine | 17.8 mmol, 4.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 491 mmol, 67.8 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 4.4 mmol, 1.00 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 245 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 370 mL | COCCOC | C4H10O2
product | 2-(3-bromophenyl)-5-methylpyridine | 68.1% yield | BrC=1C=C(C=CC1)C1=NC=C(C=C1)C | C12H10BrN
